US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 114, using 5-bromo-6-chloro-2-methyl-3-pyridinecarboxylic acid ethyl ester, 2,2,2-trifluoroethanol, ((1R,2R)-2-amino-1-cyclohexanol and (4-chloro-phenyl)-boronic acid as starting materials to yield the product as off-white solid, MS (ISP) 443.4 (M+H)+.

reactant | 5-bromo-6-chloro-2-methyl-3-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1)Br)Cl)C | C9H9BrClNO2
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | (1R,2R)-2-amino-1-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
reactant | (4-chloro-phenyl)-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-2-methyl-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C)OCC(F)(F)F | C21H22ClF3N2O3
